US04399148
To a 500 milliliter round bottom flask equipped with a water collector, water condenser, magnetic stirrer and drying tube was added 5.38 grams (0.030 moles) of 4-amino-2,3-dihydro-2,2-dimethyl-7-hydroxybenzofuran, 3.91 grams (0.032 moles) of salicylaldehyde and 300 milliliters of ethyl acetate. The resulting reaction mixture was heated to reflux with removal of the first 50 milliliters of distillate, and the remaining mixture allowed to reflux for 1 additional hour with continuous stirring. After the stirring and refluxing period, the reaction mixture was cooled to room temperature, filtered, dried over magnesium sulfate and concentrated under reduced pressure to give 6.15 grams (0.022 moles) of 2,3-dihydro-2,2-dimethyl-4-(2-hydroxybenzylideneamino)benzofuran-7-ol in the form of a dark red oil.

reactant | water | O | H2O
reactant | 4-amino-2,3-dihydro-2,2-dimethyl-7-hydroxybenzofuran | 0.030 moles, 5.38 grams | NC1=CC=C(C2=C1CC(O2)(C)C)O | C10H13NO2
reactant | salicylaldehyde | 0.032 moles, 3.91 grams | C(C=1C(O)=CC=CC1)=O | C7H6O2
solvent | ethyl acetate | 300 milliliters | C(C)(=O)OCC | C4H8O2
product | 2,3-dihydro-2,2-dimethyl-4-(2-hydroxybenzylideneamino)benzofuran-7-ol | 0.022 moles, 6.15 grams | CC1(OC2=C(C1)C(=CC=C2O)N=CC2=C(C=CC=C2)O)C | C17H17NO3
